US05240925
To a flask was added 22.65 g. (0.15 mole) of 4-chlorobenzyl cyanide in 75 ml. of methanol and 14.4 g. (0.15 mole) of 2-furaldehyde in 50 ml. of methanol. While stirring at room temperature, 12.0 g. (0.15 mole) of aqueous 50% sodium hydroxide was added dropwise. Within 30 minutes, a precipitate formed and 50 ml. of additional methanol was added. After one hour, the solid was filtered and dried to give 27.5 g. (91.2% yield) of 2-(4-chlorophenyl)-3-(2-furyl)acrylonitrile as a light yellow solid.

reactant | 4-chlorobenzyl cyanide | 0.15 mole | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | 2-furaldehyde | 0.15 mole | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(4-chlorophenyl)-3-(2-furyl)acrylonitrile | 91.2% yield | ClC1=CC=C(C=C1)C(C#N)=CC=1OC=CC1 | C13H8ClNO
